US08975252B2
60% Oily sodium hydride (135 mg) was added to a solution of 4-fluoro-1H-pyrrolo[2,3-b]pyridine (384 mg) in N,N-dimethylformamide (6 ml) and the mixture was stirred at room temperature for 1.5 hours. 1-Bromo-3-methoxypropane (518 mg) and potassium iodide (468 mg) were added to the mixture and the reaction mixture was stirred at 50° C. for 1.5 hours. Ice water was added to the reaction mixture slowly and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine successively, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=90/10 to 70/30) to give 4-fluoro-1-(3-methoxypropyl)-1H-pyrrolo[2,3-b]pyridine (520 mg) as a colorless oil.

reactant | sodium hydride | 135 mg | [H-].[Na+]
reactant | 4-fluoro-1H-pyrrolo[2,3-b]pyridine | 384 mg | FC1=C2C(=NC=C1)NC=C2 | C7H5FN2
reactant | 1-Bromo-3-methoxypropane | 518 mg | BrCCCOC | C4H9BrO
reactant | potassium iodide | 468 mg | [I-].[K+]
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-fluoro-1-(3-methoxypropyl)-1H-pyrrolo[2,3-b]pyridine | 520 mg | FC1=C2C(=NC=C1)N(C=C2)CCCOC | C11H13FN2O
